US06949571B2
3-[(2-Ethoxycarbonyl)vinylthiophen-3-yl]-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
To a solution of 7.5 mg of ethyl diethylphosphonoacetate in tetrahydrofuran was added 1.3 mg of sodium hydride in nitrogen atmosphere under ice-cooling, followed by the dropwise addition of a solution of 10 mg of 3-(2-formylthiophen-3-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one in tetrahydrofuran. After stirring the mixture at room temperature for 1 hour in nitrogen atmosphere, water was added thereto. Then, it was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 4 mg of the title compound.

reactant | ethyl diethylphosphonoacetate | 7.5 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 1.3 mg | [H-].[Na+]
reactant | 3-(2-formylthiophen-3-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 10 mg | C(=O)C=1SC=CC1C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C21H14N2O2S
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[(2-Ethoxycarbonyl)vinylthiophen-3-yl]-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 4 mg | CCOC(=O)C=CC=1SC=CC1C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C25H20N2O3S
